US05250534
5-(2-Ethoxyphenyl)-1,3-dimethyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one
4-(2-Ethoxybenzamido)-1,3-dimethylpyrazole-5-carboxamide (1.6 g, 5.29 mmol) was added to polyphosphoric acid (50 g) and the mixture heated to 140° C. for 6 hours. The solution was cooled, poured into ice-water (100 ml), and then the mixture was basified with 10% aqueous sodium hydroxide solution and extracted with dichloromethane (3×100 ml). The organic extracts were combined, dried (MgSO4) and evaporated under vacuum. The residue was chromatographed on silica gel eluting with a 97:3 mixture of dichloromethane and methanol. Crystallisation of the crude product from aqueous ethanol gave the title compound as a colourless solid, m.p. 201°-204° C. Found: C,63.43; H,5.57; N,19.35. C15H16N4O2 requires C,63.36; H,5.67; N,19.71%.

reactant | 4-(2-Ethoxybenzamido)-1,3-dimethylpyrazole-5-carboxamide | 5.29 mmol, 1.6 g | C(C)OC1=C(C(=O)NC=2C(=NN(C2C(=O)N)C)C)C=CC=C1 | C15H18N4O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-(2-Ethoxyphenyl)-1,3-dimethyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | C(C)OC1=C(C=CC=C1)C=1NC(C2=C(N1)C(=NN2C)C)=O | C15H16N4O2
